US07524841B2
Synthesis of 7,8-dimethyl-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione
5-Bromo-7,8-dimethyl-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione (5.27 g, 17.3 mmol) was suspended in methanol (60 mL), and then ammonium formate (5.45 g, 86.5 mmol, 5 eq) was added and nitrogen substitution was performed. Next, 10% palladium-carbon powder (1.84 g, 1.73 mmol, 10 mol %) was added and the mixture was heated to reflux for 4 hours. The reaction mixture was cooled to room temperature and filtered through celite. The filtrate was cooled on ice and the precipitated crystals were filtered out and dried to obtain the title compound.

reactant | 5-Bromo-7,8-dimethyl-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione | 17.3 mmol, 5.27 g | BrC1=CC(=C(C2=C1NC(NS2(=O)=O)=O)C)C | C9H9BrN2O3S
reactant | ammonium formate | 86.5 mmol, 5.45 g, 5 eq | C(=O)[O-].[NH4+]
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium-carbon | 1.73 mmol, 1.84 g | [C].[Pd]
product | 7,8-dimethyl-2H,4H-benzo[e]1,2,4-thiadiazine-1,1,3-trione | CC1=C(C2=C(NC(NS2(=O)=O)=O)C=C1)C | C9H10N2O3S
